US04070366
The preparation of 2,3-diethyl-4-methyl-5-carbethoxy-pyrrole
As in Example 32 but using 3-ethyl-4-methyl-5-carbethoxy-pyrrole and paraldehyde. Colourless prisms (64%), m.p. 71°-73° (lit. 8) 73°-74°). Anal. Calc. for C12H19NO2 : C, 68.86; H, 9.15; N, 6.67. Found: C, 68.71; H, 9.11; N, 6.84.

reactant | 3-ethyl-4-methyl-5-carbethoxy-pyrrole | C(C)C1=CNC(=C1C)C(=O)OCC | C10H15NO2
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
product | 2,3-diethyl-4-methyl-5-carbethoxy-pyrrole | C(C)C=1NC(=C(C1CC)C)C(=O)OCC | C12H19NO2
